US09403801B2
Step 3) tert-butyl 9-(methylamino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate (2.15 g, 8.05 mmol) in EtOH (20 mL) was added 33% methanamine in EtOH (3.7 g, 40.3 mmol), and the mixture was stirred at r.t for 1.5 h. Then NaBH3CN (1.5 g, 24.2 mmol) was added to the mixture. After that the resulting mixture was stirred at r.t overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as brown oil (1.05 g, 46.2%).

reactant | tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate | 8.05 mmol, 2.15 g | O=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H25NO3
reactant | methanamine | CN | CH5N
reactant | NaBH3CN | 24.2 mmol, 1.5 g | [BH3-]C#N.[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOH | 40.3 mmol, 3.7 g | CCO | C2H6O
product | tert-butyl 9-(methylamino)-3-azaspiro[5.5]undecane-3-carboxylate | 1.05 g, 46.2% | CNC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C16H30N2O2
